US05089499
A mixture of 2-chloro-4-cyanopyridine (1.9 g), platinum dioxide (0.3 g), acetic anhydride (50 ml) and acetic acid (50 ml) was stirred under an atmosphere of hydrogen for 2 hours. The mixture was filtered and the filtrate was evaporated. The residue was partitioned between chloroform and dilute aqueous sodium bicarbonate solution. The organic phase was dried (MgSO4) and evaporated to give N-(2-chloropyrid-4-ylmethyl)acetamide (1.5 g), as an oil.

reactant | 2-chloro-4-cyanopyridine | 1.9 g | ClC1=NC=CC(=C1)C#N | C6H3ClN2
reactant | acetic anhydride | 50 ml | C(C)(=O)OC(C)=O | C4H6O3
catalyst | platinum dioxide | 0.3 g | [Pt](=O)=O
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | N-(2-chloropyrid-4-ylmethyl)acetamide | 1.5 g | ClC1=NC=CC(=C1)CNC(C)=O | C8H9ClN2O
